US09163012B2
A solution of 1,4-adamantanediol (210 mg, 1.25 mmol) in dry pyridine (3 mL) and dry CH2Cl2 (6 mL) was cooled in an ice bath and a solution of triphosgene (122 mg, 0.41 mmol) in dry Ch2Cl2 (3 mL) was added dropwise over 5 min. The mixture was stirred in the ice bath for 3 h to afford a 0.1 M solution of 1-hydroxy-4-adamantyl chloroformate.

reactant | 1,4-adamantanediol | 1.25 mmol, 210 mg | C12(CC3C(C(CC(C1)C3)C2)O)O | C10H16O2
reactant | triphosgene | 0.41 mmol, 122 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | 1-hydroxy-4-adamantyl chloroformate | ClC(=O)OC1C2CC3(CC(CC1C3)C2)O | C11H15ClO3
